### PR TITLE
feat: proof of Myhill-Nerode theorem for DFAs

### PR DESCRIPTION
**Pull request by akhilesh-balaji**
Re-opening #479 which was accidentally closed. Thanks very much, @ctchou, for going through it and making edits.

This PR adds a proof of the Myhill-Nerode theorem. It builds on the definition of right congruence (and associated definitions and theorems) in #278. These are the main results shown (the statement of the theorem has been taken from [Wikipedia](https://en.wikipedia.org/wiki/Myhill–Nerode_theorem) and amended slightly):

(1) `L` regular iff. `∼_L` (distinguishability by `L`, also called the Nerode
congruence) has a finite number of equivalence classes `N`.
(2) `N` is the number of states in the minimal DFA accepting `L`.
(3) The minimal DFA is unique up to unique isomorphism. That is, for any
    minimal DFA acceptor, there exists exactly one isomorphism from it to the
    following one:

  > Let each equivalence class `⟦ x ⟧` correspond to a state, and let state
  transitions be `a : ⟦ x ⟧ → ⟦ x a ⟧` for each `a ∈ Σ`.
  Let the starting state be `⟦ ϵ ⟧`, and the accepting states be `⟦ x ⟧` where
  `x ∈ L`.

### CODE REVIEW

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 1]
```diff
@@ -0,0 +1,249 @@
...
+      congrArg (fun s => s ∈ M.accept) this ▸ hy
+
+-- Myhill-Nerode (3)
+
+/-- The minimal DFA `M` accepting `l` is unique up to unique isomorphism. -/
+@[simp]
+theorem unique_minimal [Finite State]
+    (l : Language α) (hReg : l.IsRegular) (hMin : M.IsMinimalAutomaton l) :
+    ∃! φ : State ≃ l.NerodeQuotient,
+      ∀ x, φ (M.mtr M.start x) = ⟦ x ⟧ := by
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Please merge these two lines.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 2]
```diff
@@ -0,0 +1,249 @@
...
+
+end Language
+
+namespace Cslib.Automata.DA.FinAcc
+
+open Cslib Language Automata DA FinAcc Acceptor
+open scoped RightCongruence
+
+/-- The minimal DFA accepting `l` has `|α*/c_l|` states. -/
+def IsMinimalAutomaton [Finite State] (M : FinAcc State α) (l : Language α) :=
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Remove `[Finite State]`.  You don't need it to be able to make this definition.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 3]
```diff
@@ -0,0 +1,249 @@
...
+    exact hws hx hy (fun h => hne (Subtype.ext h))
+      ((da_nerodeCongruence_iff M x y).mpr (fun z => heq ▸ Iff.rfl))
+
+-- Myhill-Nerode (2)
+
+/-- All DFAs accepting `l` must have at least as many states as the number of equivalence classes
+of `α*` under the Nerode congruence `c_l` induced by `l` (i.e., `|α*/c_l|`). -/
+@[simp]
+theorem dfa_num_state_min {State : Type*} {M : DA.FinAcc State α}
+    [Finite State] [Finite (language M).NerodeQuotient] :
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: You don't need the assumption `[Finite (language M).NerodeQuotient]`.  Since `[Finite State]`, `Language M` is regular.  Then that assumption follows from `IsRegular.iff_finite_nerodeQuotient`, which you proved earlier.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 4]
```diff
@@ -0,0 +1,249 @@
...
+Authors: Akhilesh Balaji
+-/
+
+module
+
+public import Cslib.Computability.Languages.RegularLanguage
+
+@[expose] public section
+
+/-! # All three subparts of the Myhill-Nerode Theorem for DFAs
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: I think you are referring to the three parts in Wikipedia?
https://en.wikipedia.org/wiki/Myhill–Nerode_theorem
If so, refer to it explicitly here.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 5]
```diff
@@ -0,0 +1,249 @@
...
+
+(1) `L` regular iff. `∼_L` has a finite number of equivalence classes `N`.
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: You never define `~_L`.  Similarly, you never define the `c_l` in later comments.  Either you define them, or use plain English to explain what you mean.

**Review by ctchou — CHANGES_REQUESTED** [review]
Thanks for re-opening the PR.  I have a few more comments.

**Comment by akhilesh-balaji** [comment]
I have made all the changes. Also, in `RegularLanguage`, we have:

```
theorem IsRegular.iff_dfa {l : Language Symbol} :
    l.IsRegular ↔ ∃ State : Type, ∃ _ : Finite State,
      ∃ dfa : DA.FinAcc State Symbol, language dfa = l
```

At some point, we should ideally change this to use `∃ State : Type*`, as `∃ State : Type` makes proving theorems with `State: Type*` much more difficult. For now, I have used (in `MyhillNerode`):

```
theorem dfa_num_state_min {State : Type} {M : DA.FinAcc State α} [Finite State] :
    Nat.card State ≥ Nat.card (language M).NerodeQuotient
```

rather than `State: Type*`. Otherwise, when showing `Finite (language M).NerodeQuotient`, I would have to downcast the type universe, etc. The other theorems still use `State: Type*`.

**Comment by ctchou** [comment]
The `State` in the theorem `IsRegular.iff_dfa` is only a `Type` and not a `Type*` because this is how `Language.IsRegular` is defined in mathlib:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/DFA.html#Language.IsRegular
And mathlib does this for a good reason: changing `State : Type` to `State : Type*` simply does not work in Leen's type system.  We have a similar pattern in the definition of `OmegaLanguage.IsRegular` as well:
https://api.cslib.io/docs/Cslib/Computability/Languages/OmegaRegularLanguage.html#Cslib.%CF%89Language.IsRegular
You can try changing the `Type` to `Type*` and see what happens.

There are theorems that let you "lift" the state spaces to `Type*`:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/DFA.html#Language.isRegular_iff
https://api.cslib.io/docs/Cslib/Computability/Languages/OmegaRegularLanguage.html#Cslib.%CF%89Language.isRegular_iff
But I usually don't bother with them, because we are dealing with finite types here and there seems no loss of generality in having those finite types living in `Type 0`, rather than some higher `Type u`.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 6]
```diff
@@ -0,0 +1,251 @@
...
+
+module
+
+public import Cslib.Computability.Languages.RegularLanguage
+
+@[expose] public section
+
+/-! # All three parts of the Myhill-Nerode Theorem for DFAs listed at [WikipediaMyhillNerode2026].
+
+`~_L` is the Nerode congruence on a language `L`.
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: What is `L`?  Every symbol should be explained before it is used.

Please explain what "Nerode congruence" means.  Later you talk about `c_l` without explaining what it means.  Also, be consistent with the use of lowercase vs uppercase: either all `l` or all `L`.  Don't mix them.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 7]
```diff
@@ -0,0 +1,251 @@
...
+  haveI : Finite (language M).NerodeQuotient :=
+      IsRegular.iff_finite_nerodeQuotient.mp (IsRegular.iff_dfa.mpr ⟨State, inferInstance, M, rfl⟩)
+  haveI : Finite ws := Set.finite_range _ |>.to_subtype
+  have hws : ws.Pairwise (fun x y => ¬((language M).NerodeCongruence).r x y) := by
+    rintro _ ⟨qx, rfl⟩ _ ⟨qy, rfl⟩ hne h
+    exact hne (by simpa using Quotient.sound h)
+  have card_hws_eq : Nat.card ws = Nat.card (Quotient ((language M).NerodeCongruence).eq) :=
+    Nat.card_congr (Equiv.ofInjective _ Quotient.out_injective).symm
+  exact card_hws_eq ▸ dfa_num_state_ge hws rfl
+--
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Redundant line.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 8]
```diff
@@ -0,0 +1,251 @@
...
+of the Nerode congruence on `l`. -/
+def IsMinimalAutomaton (M : FinAcc State α) (l : Language α) :=
+  language M = l ∧ Nat.card State = Nat.card (l.NerodeQuotient)
+
+/-- Given a DFA `M`, two strings are related iff they reach the same state under when run through
+`M`. The Nerode congruence is the state congruence with respect to the minimal DFA accepting `l`. -/
+instance StateCongruence (M : FinAcc State α) : RightCongruence α where
+  r x y := ∀ z, M.mtr M.start (x ++ z) = M.mtr M.start (y ++ z)
+  iseqv := ⟨by intro x z; rfl, by intro x y h z; symm; exact h z,
+      by intro x y z h_1 h_2 w; exact (h_1 w).trans (h_2 w)⟩
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Please break this into three components like in the definition of `NerodeCongruence`.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 9]
```diff
@@ -0,0 +1,251 @@
...
+
+/-- The Nerode congruence of a language `l` is a right congruence on strings where two
+strings are related iff all their right extensions are either both in the language
+or both not in it. -/
+instance NerodeCongruence (l : Language α) : RightCongruence α where
+  r x y := ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l
+  iseqv.refl := fun _ _ => Iff.rfl
+  iseqv.symm := fun h z => (h z).symm
+  iseqv.trans := fun h_1 h_2 z => (h_1 z).trans (h_2 z)
+  right_cov := ⟨fun a {x y} (h : ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l) z =>
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Write `right_cov.elim := ...`, where the `...` does not need the angle brackets.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 10]
```diff
@@ -0,0 +1,251 @@
...
+def IsMinimalAutomaton (M : FinAcc State α) (l : Language α) :=
+  language M = l ∧ Nat.card State = Nat.card (l.NerodeQuotient)
+
+/-- Given a DFA `M`, two strings are related iff they reach the same state under when run through
+`M`. The Nerode congruence is the state congruence with respect to the minimal DFA accepting `l`. -/
+instance StateCongruence (M : FinAcc State α) : RightCongruence α where
+  r x y := ∀ z, M.mtr M.start (x ++ z) = M.mtr M.start (y ++ z)
+  iseqv := ⟨by intro x z; rfl, by intro x y h z; symm; exact h z,
+      by intro x y z h_1 h_2 w; exact (h_1 w).trans (h_2 w)⟩
+  right_cov := ⟨by
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: Write `right_cov.elim := ...`, where the `...` does not need the angle brackets.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 11]
```diff
@@ -0,0 +1,251 @@
...
+  · rintro ⟨y, hy, heq⟩
+    simpa using (Quotient.eq.mp heq []).mp (by simpa using hy)
+  · exact fun hx => ⟨x, hx, rfl⟩
+
+/-- The statement (two strings are related by the Nerode congruence `c_l` on `l` iff all their right
+extensions are either both in the language or both not in it) is equivalent to stating that (all
+their right extensions are either both accepted or rejected by the DFA given rise to by `c_l`.) -/
+theorem da_nerodeCongruence_iff {State : Type*} (M : DA.FinAcc State α) (x y : List α) :
+    ((language M).NerodeCongruence).r x y ↔
+      ∀ z, M.mtr (M.mtr M.start x) z ∈ M.accept ↔ M.mtr (M.mtr M.start y) z ∈ M.accept := by
```
Comment (ctchou) [inline Cslib/Computability/Languages/MyhillNerode.lean]: No need for the two extra spaces in indentation.

**Review by ctchou — CHANGES_REQUESTED** [review]
We are getting close to an approvable shape in the organization and statements of definitions and theorems.

@chenson2018: maybe you want to take a look as well?  I have not tried any proof golfing.

**Comment by ctchou** [comment]
@akhilesh-balaji  Please mark those comments which you have fixed as resolved.  Thanks!

**Comment by akhilesh-balaji** [comment]
Done.

> Please explain what "Nerode congruence" means. Later you talk about c_l without explaining what it means. Also, be consistent with the use of lowercase vs uppercase: either all l or all L. Don't mix them.

I have defined `c_l` now when stating the three parts of the theorem. Also, `c_l` has been defined when `instance NerodeCongruence` appears, and so I keep referring to this `c_l`. I can of course rephrase all the docstrings to be in plain English but this would arguably make it harder to read.

**Comment by ctchou** [comment]
Thanks for making the changes.  I just pushed a commit to re-word the main comment a bit.  I also turned on the CI.

I'm pretty happy with the overall structure of this PR now.  I would like to take a closer look at the proofs, but that will take a few days.  I hope @chenson2018 will be able to take a look as well.

**Comment by ctchou** [comment]
I removed some redundant lines. Please do not add redundant `--` lines.

**Comment by ctchou** [comment]
@akhilesh-balaji  There are some CI failures which you should look into.  I always run locally the following steps for any PR of my own:
```
lake exe mk_all --module
lake build
lake lint
lake test
```
and correct all errors or warnings reported by them.

**Comment by akhilesh-balaji** [comment]
The linter appears to have failed here:

```
  /- The `impossibleInstance` linter reports:
  SOME INSTANCES HAVE ARGUMENTS THAT ARE IMPOSSIBLE TO INFER
  These are arguments that are not instance-implicit and do not appear in
  another instance-implicit argument or the return type. -/
  -- Cslib.Computability.Languages.MyhillNerode
  /home/runner/work/cslib/cslib/Cslib/Computability/Languages/MyhillNerode.lean:48:1: error: @Language.NerodeCongruence argument 2 l : Language
    α
  /home/runner/work/cslib/cslib/Cslib/Computability/Languages/MyhillNerode.lean:192:1: error: @Cslib.Automata.DA.FinAcc.StateCongruence argument 3 M : Cslib.Automata.DA.FinAcc
    State α
```

This can be fixed easily if `instance` is changed back to `def`. I am unsure of how else to get around this; I would appreciate your advice on the same.

The other errors are suggestions to change existing proofs in other files to use `NerodeQuotient`. For instance:
```
Try to change the left-hand side to the simplified term!
  /home/runner/work/cslib/cslib/Cslib/Computability/Languages/RegularLanguage.lean:154:1: error: @Cslib.Language.IsRegular.mul Left-hand side simplifies from
    (l1 * l2).IsRegular
  to
    Finite (l1 * l2).NerodeQuotient
  using
    simp only [*, @Language.IsRegular.iff_finite_nerodeQuotient]
  Try to change the left-hand side to the simplified term!
```

Wouldn't this affect the readability of these other theorems, or should I go ahead and implement the changes suggested by the linter?

Thank you.

**Comment by ctchou** [comment]
@akhilesh-balaji  I just pushed a commit that fixes the linter errors.  I changed the `instance`s to `def`s and added the `@[impliict_reducible]` attributes to those new `def`s.  I also removed a number of `@[simp]` attributes.  Some of them triggered the `simpNF` errors, while the others of them are probably useless because the conclusion of the tbeorem is not something you would typically try to rewrite.  In general, I prefer to add theorems to the simp database sparingly and add `@[simp]` only when I expect the theorem will be used outside the current file for rewriting.

Note that the old code in the existing files have already been linted.  So the errors reported by the linter are almost always caused by the new code.

**Comment by akhilesh-balaji** [comment]
Thank you for fixing the linter errors, @ctchou.

**Comment by chenson2018** [comment]
@ctchou If you'll ping me once you approve, I can take a last look at any golfing/style before merging.

**Review by ctchou — APPROVED** [review]
@chenson2018  I just merged in the latest "main" branch.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 12]
```diff
@@ -0,0 +1,252 @@
...
+strings where two strings are related iff all their right extensions are either both in the language
+or both not in it. -/
+@[implicit_reducible]
+def NerodeCongruence (l : Language α) : RightCongruence α where
+  r x y := ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l
+  iseqv.refl := fun _ _ => Iff.rfl
+  iseqv.symm := fun h z => (h z).symm
+  iseqv.trans := fun h_1 h_2 z => (h_1 z).trans (h_2 z)
+  right_cov.elim := fun a {x y} (h : ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l) z =>
+    List.append_assoc x a z ▸ List.append_assoc y a z ▸ h (a ++ z)
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]: A few style points here. Typically we would:
- use a common naming conventions for lists.
- eliminate these `fun` by placing names on the lhs of the `:=`
- not use `▸` explicitly
- prefer subscripts (we don't enforce this strictly, just be consistent)

I'd have written:

```suggestion
  r xs ys := ∀ zs, xs ++ zs ∈ l ↔ ys ++ zs ∈ l
  iseqv.refl _ _ := by rfl
  iseqv.symm h xs := (h xs).symm
  iseqv.trans h₁ h₂ xs := (h₁ xs).trans (h₂ xs)
  right_cov.elim := by grind [Covariant]
```

**Comment by ctchou** [comment]
Merged in the current `main` and did a minor touchup.

**Comment by ctchou** [comment]
Merged in the current `main`.

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 13]
```diff
@@ -0,0 +1,254 @@
...
+@[simp, scoped grind =]
+theorem nerodeCongruenceDA_language_eq (l : Language α) :
+    language (l.NerodeCongruenceDA) = l := by
+  ext x
+  simp only [NerodeCongruenceDA, language, Acceptor.Accepts, congr_mtr_eq, Set.mem_image]
+  constructor
+  · rintro ⟨y, hy, heq⟩
+    have h1 := Quotient.eq.mp heq []
+    simp only [List.append_nil] at h1
+    simpa [← h1]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean:82]: I think the issue here is that there are multiple membership instances, and the changes in reducibility mean these don't cooperate with `grind` (or the new `simpa`). See how this works:

```suggestion
  · rintro ⟨y, hy, heq⟩
    have := Quotient.eq.mp heq []
    replace hy : y ∈ l := hy
    grind
```
and take note of the type of `hy : y ∈ l` changing as viewed under `pp.all`.

Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean:82]: Thanks for pointing this out.  I think I'll keep the proof the way it is, since the `simpa` will probably be more robust against future changes than `grind`.

Zulip discussion: [#CSLib > grind behavior with automata quotients](https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/grind.20behavior.20with.20automata.20quotients/with/598695279)

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 14]
```diff
@@ -0,0 +1,225 @@
...
+
+/-- The quotient type of a Nerode congruence. -/
+abbrev NerodeQuotient (l : Language α) := Quotient (l.NerodeCongruence).eq
+
+/-- The Nerode congruence of a language `l` gives rise to a DFA where each state corresponds to an
+equivalence class of the language under the Nerode congruence. Note that this is simply the DFA
+given rise to by the underlying right congruence with only the accept states specified here as
+`{⟦ x ⟧ | x ∈ l}`. -/
+def NerodeCongruenceDA (l : Language α) : DA.FinAcc (l.NerodeQuotient) α :=
+  FinAcc.mk (l.NerodeCongruence).toDA ((⟦·⟧) '' l)
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  FinAcc.mk l.NerodeCongruence.toDA ((⟦·⟧) '' l)
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 15]
```diff
@@ -0,0 +1,225 @@
...
+    Finite (l.NerodeQuotient) := by
+  obtain ⟨State, hFin, M, hM⟩ := IsRegular.iff_dfa.mp h
+  rw [← hM]
+  apply Finite.of_surjective (fun s ↦ ⟦ Classical.epsilon (fun x ↦ M.mtr M.start x = s) ⟧)
+  intro q
+  induction q using Quotient.inductionOn with
+  | h x =>
+    use M.mtr M.start x
+    apply Quotient.sound
+    change ((language M).NerodeCongruence).r _ x
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 16]
```diff
@@ -0,0 +1,225 @@
...
+@[scoped grind =]
+theorem IsRegular.iff_finite_nerodeQuotient {l : Language α} :
+    l.IsRegular ↔ Finite (l.NerodeQuotient) := by
+  constructor
+  · intro h
+    exact IsRegular.finite_nerodeQuotient h
+  · intro h
+    apply IsRegular.iff_dfa.mpr
+    use l.NerodeQuotient, h, l.NerodeCongruenceDA
+    exact nerodeCongruenceDA_language_eq l
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
    use l.NerodeQuotient, h, l.NerodeCongruenceDA, nerodeCongruenceDA_language_eq l
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 17]
```diff
@@ -0,0 +1,225 @@
...
+    grind [hws hx hy, da_nerodeCongruence_iff M x y]
+
+-- Myhill-Nerode (2)
+
+/-- All DFAs accepting `l` must have at least as many states as the number of equivalence classes
+of the Nerode congruence on `l`. -/
+theorem dfa_num_state_min {State : Type} {M : DA.FinAcc State α} [Finite State] :
+    Nat.card State ≥ Nat.card (language M).NerodeQuotient := by
+  let ws : Set (List α) := Set.range
+    (Quotient.out : Quotient ((language M).NerodeCongruence).eq → List α)
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
    (Quotient.out : Quotient (language M).NerodeCongruence.eq → List α)
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 18]
```diff
@@ -0,0 +1,225 @@
...
+
+namespace Cslib.Automata.DA.FinAcc
+
+open Cslib Language Automata DA FinAcc Acceptor
+open scoped RightCongruence
+
+/-- The minimal DFA accepting `l` has the same number of states as the number of equivalence classes
+of the Nerode congruence on `l`. -/
+def IsMinimalAutomaton {State : Type*} (M : FinAcc State α) (l : Language α) :=
+  language M = l ∧ Nat.card State = Nat.card (l.NerodeQuotient)
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  language M = l ∧ Nat.card State = Nat.card l.NerodeQuotient
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 19]
```diff
@@ -0,0 +1,225 @@
...
+  iseqv.trans := by grind
+  right_cov.elim := by grind [Covariant]
+
+variable {M : FinAcc State α}
+
+/-- The Nerode congruence is the most coarse state congruence given a language. -/
+theorem stateCongruence_le_nerodeCongruence {x y : List α}
+    (h : (StateCongruence M).r x y) : ((language M).NerodeCongruence).r x y := by
+  intro z
+  constructor <;> grind [h z, language, Acceptor.Accepts, FLTS.mtr_concat_eq]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  grind [h z, language, Acceptor.Accepts, FLTS.mtr_concat_eq]
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 20]
```diff
@@ -0,0 +1,225 @@
...
+
+/-- The minimal DFA `M` accepting the language `l` is unique up to unique isomorphism. -/
+theorem unique_minimal [Finite State]
+    (l : Language α) (hr : l.IsRegular) (hm : M.IsMinimalAutomaton l) :
+    ∃! φ : State ≃ l.NerodeQuotient, ∀ x, φ (M.mtr M.start x) = ⟦ x ⟧ := by
+  obtain ⟨rfl, hc⟩ := hm
+  have := Language.IsRegular.iff_finite_nerodeQuotient.mp hr
+  let φ : State → Quotient ((language M).NerodeCongruence).eq :=
+    fun s ↦ ⟦ Classical.epsilon (fun x : List α ↦ M.mtr M.start x = s) ⟧
+  have hφ : ∀ x, φ (M.mtr M.start x) = ⟦ x ⟧ := fun x ↦ by
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  have hφ (x : List α) : φ (M.mtr M.start x) = ⟦ x ⟧ := by
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 21]
```diff
@@ -0,0 +1,225 @@
...
+    apply Quotient.sound
+    apply stateCongruence_le_nerodeCongruence
+    intro z
+    have := @Classical.epsilon_spec _ (fun y : List α ↦ M.mtr M.start y = M.mtr M.start x) ⟨x, rfl⟩
+    grind [FLTS.mtr]
+  have hφ_surj : Function.Surjective φ := fun q ↦
+    q.inductionOn (fun x ↦ ⟨M.mtr M.start x, hφ x⟩)
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  have hφ_surj : Function.Surjective φ := fun q ↦ q.inductionOn (fun x ↦ ⟨M.mtr M.start x, hφ x⟩)
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 22]
```diff
@@ -0,0 +1,225 @@
...
+  let φ_equiv := Equiv.ofBijective φ ⟨hφ_inj, hφ_surj⟩
+  use φ_equiv, hφ
+  intro ψ hψ
+  ext s
+  obtain ⟨_, rfl⟩ : ∃ x, M.mtr M.start x = s := by
+    induction h : φ s using Quotient.inductionOn with
+    | h x =>
+      use x
+      exact hφ_inj ((hφ x).trans h.symm)
+  grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
  use Equiv.ofBijective φ ⟨hφ_inj, hφ_surj⟩, hφ
  intro ψ hψ
  ext s
  induction h : φ s using Quotient.inductionOn with | h x =>
  grind [hφ_inj ((hφ x).trans h.symm)]
```

File: Cslib/Computability/Languages/MyhillNerode.lean [hunk 23]
```diff
@@ -0,0 +1,225 @@
...
+@[implicit_reducible]
+def NerodeCongruence (l : Language α) : RightCongruence α where
+  r x y := ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l
+  iseqv.refl := by grind
+  iseqv.symm := by grind
+  iseqv.trans := by grind
+  right_cov.elim := by grind [Covariant]
+
+/-- The quotient type of a Nerode congruence. -/
+abbrev NerodeQuotient (l : Language α) := Quotient (l.NerodeCongruence).eq
```
Comment (chenson2018) [inline Cslib/Computability/Languages/MyhillNerode.lean]:
```suggestion
abbrev NerodeQuotient (l : Language α) := Quotient l.NerodeCongruence.eq
```

**Review by chenson2018 — APPROVED** [review]
This looks a lot better. I do remain a little uncomfortable with some of how we use `RightCongruence`, but that's not in scope for this PR.

I've left a few minor style comments, but am approving and delegating to @ctchou to merge once they are addressed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 14 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 15 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 17 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 18 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 19 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 20 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 21 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 22 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Nice!  I tried to simplify the `obtain ... grind` but couldn't find any improvements.

File: Cslib/Computability/Languages/MyhillNerode.lean (hunk 23 above)
Comment (ctchou) [reply Cslib/Computability/Languages/MyhillNerode.lean]: Fixed.
